US06262082B1
3-Chloro-4-vinyl-phenylamine
To a deoxygenated solution of 3-chloro-4-iodo-aniline (6.95 g) triphenyl arsine (0.67 g), and tris(dibenzylideneacetone)palladium(0) (0.50 g) in tetrahydrofuran (120 mL) at 50° C. is added tributylvinyltin (10 g) and the mixture is stirred for approximately 15 hours at 50° C. under an atmosphere of argon. The reaction is then cooled, filtered through diatomaceous earth, and the filtrate is evaporated to dryness under reduced pressure. The residue is dissolved in hexanes and then extracted three times with 5% aqueous hydrochloric acid. These aqueous acidic extracts are then basified with solid potassium carbonate and extracted three times with ethyl acetate. These pooled organic extracts are then washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and the solvent is removed under reduced pressure. The resulting residue is chromatographed over silica gel (hexanes and then 10% ethyl acetate in hexanes is used as the eluant) to provide the desired product as an amber oil.

reactant | 3-chloro-4-iodo-aniline | 6.95 g | ClC=1C=C(N)C=CC1I | C6H5ClIN
reactant | tributylvinyltin | 10 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 3-Chloro-4-vinyl-phenylamine | ClC=1C=C(C=CC1C=C)N | C8H8ClN
